US04346094
3-(3-trifluoromethylphenyl)-5-isothiazolecarboxylic acid
3-(3-trifluoromethylphenyl)-4-fluoro-5-isothiazolecarboxylic acid, sodium salt

reactant | 3-(3-trifluoromethylphenyl)-4-fluoro-5-isothiazolecarboxylic acid | FC(C=1C=C(C=CC1)C1=NSC(=C1F)C(=O)O)(F)F | C11H5F4NO2S
reactant | sodium | [Na] | Na
product | 3-(3-trifluoromethylphenyl)-5-isothiazolecarboxylic acid | FC(C=1C=C(C=CC1)C1=NSC(=C1)C(=O)O)(F)F | C11H6F3NO2S
